US07915284B2
5.2 {3-[2-(4-Chlorophenyl)imidazo[1,2-a]pyridin-6-yl]phenyl}methanol
Under a stream of nitrogen, 210 mg of 6-bromo-2-(4-chlorophenyl)imidazo[1,2-a]pyridine, 155 mg of 3-(hydroxymethyl)phenylboronic acid and 24 mg of tetrakis(triphenylphosphine)palladium are placed in a microwave tube containing 3 ml of toluene degassed beforehand under a stream of nitrogen, 3 ml of acetonitrile and 3 ml of a 2M solution of sodium carbonate. The tube is placed in a microwave apparatus and irradiated at 150° C. for 15 min. The organic phase is separated and dried and the filtrate is concentrated under reduced pressure. The residue obtained is taken up with dichloromethane. The precipitate is recovered by filtration, washed with dichloromethane and dried in a desiccator under reduced pressure. 175 mg of compound are obtained. Mp=181-182° C. 1H NMR (DMSO-d6, δ in ppm): 4.57 (d, J=5.5 Hz, 2H); 5.23 (t, J=5.6 Hz, 1H); from 7.28 to 7.71 (m, 8H); 7.97 (m, J=8.5 Hz, 2H); 8.41 (s, 1H); 8.84 (m, 1H). M+H=335.

reactant | 6-bromo-2-(4-chlorophenyl)imidazo[1,2-a]pyridine | 210 mg | BrC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)Cl | C13H8BrClN2
reactant | 3-(hydroxymethyl)phenylboronic acid | 155 mg | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | {3-[2-(4-Chlorophenyl)imidazo[1,2-a]pyridin-6-yl]phenyl}methanol | 175 mg | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C=2C=C(C=CC2)CO)C1 | C20H15ClN2O
